US06914074B2
6-(4-Hydroxyphenyl)-1-nitro-2-naphthol
To a solution of 6-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-nitro-2-naphthol (302 mg, 0.764 mmol) in THF (12 mL) was added TBAF (0.92 mL, 0.917 mmol, 1.0 M solution in THF). The solution was stirred for 10 minutes at room temperature, poured in water. The mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried anhydrous Na2SO4, filtered, evaporation of the solvent, and purification on a silica column (20%-40% ethyl acetate-hexane) yielded 130 mg (61%) of a orange solid. An analytical sample was further purified by recrystallization with ethyl acetate-hexane to yield the title compound as a orange solid:: mp 199-201° C.; 1H NMR (DMDO-d6): δ 6.89(2H, d, J=8.51 Hz), 7.33 (1H, d, J=9.05 Hz), 7.62 (1H, d, J=8.94 Hz), 7.63(2H, d, 8.48 Hz), 7.91 (1H, dd, J=8.87 Hz, J=1.59 Hz), 8.06 (1H, d, 9.18 Hz), 8.17 (1H, d, J=1.31 Hz), 9.64(1H, s), 11.40 (1H,s); MS (ESI) m/z280 (M−H)−.

reactant | 6-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-nitro-2-naphthol | 0.764 mmol, 302 mg | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C=1C=C2C=CC(=C(C2=CC1)[N+](=O)[O-])O)(C)C | C22H25NO4Si
reactant | TBAF | 0.917 mmol, 1.0 M, 0.92 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(4-Hydroxyphenyl)-1-nitro-2-naphthol | 130 mg, 61% | OC1=CC=C(C=C1)C=1C=C2C=CC(=C(C2=CC1)[N+](=O)[O-])O | C16H11NO4
